US04675320
A mixture of 1.04 g. (0.0066 mole) of ethyl isonipecotate and 2 g. (0.006 mole) of 5-bromomethyl-2-nitro-3-phenylbenzofuran in 100 ml. of acetone is heated at reflux for 40 hours. The mixture is cooled and then evaporated to provide a residue which is diluted with diethyl ether. A yellow precipitate is separated by filtration to provide ethyl N-(2-nitro-3-phenylbenzofuran-5-yl)isonipecotate hydrobromide, m.p. 220°-221° C., having the structure

reactant | ethyl isonipecotate | 0.0066 mole | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | 0.006 mole | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | acetone | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl N-(2-nitro-3-phenylbenzofuran-5-yl)isonipecotate hydrobromide | Br.[N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)N2CCC(C(=O)OCC)CC2 | InChI=1S/C22H22N2O5.BrH/c1-2-28-22(25)16-10-12-23(13-11-16)17-8-9-19-18(14-17)20(21(29-19)24(26)27)15-6-4-3-5-7-15;/h3-9,14,16H,2,10-13H2,1H3;1H
